US06664259B2
N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-[(1S,2S)-(−)-2-benzyloxycyclohexyl] urea
A solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (109 mg, 0.49 mmol) and the crude (1S,2S)-(−)-2-benzyloxycyclohexyl isocynate in 2 mL of N,N-dimethyl-formamide was stirred at room temperature for 20 hours. Purification upon Gilson HPLC, eluting with acetonitrile/water (10/90, v/v to 90/10, v/v, over 10 min), gave the desired product (60 mg, 27% two steps). LC-MS (m/z) 454.0 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.49 mmol, 109 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | (1S,2S)-(−)-2-benzyloxycyclohexyl isocynate | C(C1=CC=CC=C1)O[C@@H]1[C@H](CCCC1)N=C=O | C14H17NO2
solvent | N,N-dimethyl-formamide | 2 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-[(1S,2S)-(−)-2-benzyloxycyclohexyl] urea | 60 mg, 27% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)N[C@@H]1[C@H](CCCC1)OCC1=CC=CC=C1)O | C20H24ClN3O5S
